US07781443B2
(2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(piperazin-1-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (150 mg) is dissolved in N,N-dimethylformamide (1 ml), then thereto are added 2-iodoethanol (26 μl) and excess potassium carbonate, and the mixture is heated to 50° C. under nitrogen flow and stirred for 5 hours. After adding distilled water, the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; chloroform:methanol=19:1→9:1) to give (2R*,4-{[3,5-bis(trifluoromethyl)benzyl]-[5-[4-(2-hydroxyethyl)piperazin-1-yl]pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (128 mg). MS (m/z): 712 [M+H]+

reactant | (2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(piperazin-1-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 150 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)N1CCNCC1)CC | C31H35F6N7O3
reactant | 2-iodoethanol | 26 μl | ICCO | C2H5IO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-{[3,5-bis(trifluoromethyl)benzyl]-[5-[4-(2-hydroxyethyl)piperazin-1-yl]pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 128 mg | C(C)OC(=O)N1C(CC(C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)N1CCN(CC1)CCO)CC | C33H39F6N7O4
